US03934008
5. H-Gly-Ala-Pro-OtBu
2.06 g of Z-Gly-Ala-Pro-OtBu are hydrogenated in 30 ml of methanol in the presence of 300 mg of Pd on charcoal (10 %) at room temperature. The hydrogen uptake has ended after 90 minutes. The catalyst is filtered off and the filtrate is concentrated to about 5 ml. 10 ml of ether are added. The product crystallises out overnight. Melting point 132°-134°C; Rf = 0.3 in the system chloroform-methanol (1:1) on silica gel.

reactant | Z-Gly-Ala-Pro-OtBu | 2.06 g | N(CC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C22H31N3O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd on charcoal | 300 mg | [Pd] | Pd
product | H-Gly-Ala-Pro-OtBu | NCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C14H25N3O4
